US07429565B2
2-{4-[(1-Carboxy-ethoxy)-hydroxy-phosphoryl]-but-2-enyl}-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid
A solution of crude 2-{4-[(1-carboxy-ethoxy)-hydroxy-phosphoryl]-but-2-enyl}-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid 2-trimethylsilanyl-ethyl ester (AC-2101-59) and tetrabutylammonium fluoride in THF (1 M, 54 μL, 0.054 mmol) was stirred with THF (1 mL) for 2 hours at ambient temperature, when more tetrabutylammonium fluoride in THF (54 μL, 0.054 mmol) was added. The reaction was stirred for an additional 16 hours, by which time the reaction was complete. The reaction mixture was concentrated in vacuo and the product was purified by RP HPLC using a Phenomenex Synergi 5μ Hydro RP 80A column (50×21.2 mm) with eluents of H2O, 0.1% TFA-CH3CN, 0.1% TFA to provide the product (8.0 mg) as a clear oil. 1H NMR (300 MHz, CDCl3) δ 1.51 (d, 3H, J=7 Hz), 1.79 (s, 3H), 2.05-2.40 (m, 4H), 2.11 (s, 3H), 2.49-2.71 (m, 3H), 3.38 (d, 2H, J=6 Hz), 3.76 (s, 3H), 4.85 (br s, 1H), 5.20 (s, 2H), 5.21-5.30 (m, 1H), 5.33-5.63 (m, 2H) ppm; 31P (121.4 MHz, CDCl3) δ 27.7 ppm; MS (m/z) 525.2 [M−H]−.

reactant | 2-{4-[(1-carboxy-ethoxy)-hydroxy-phosphoryl]-but-2-enyl}-6-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-4-methyl-hex-4-enoic acid 2-trimethylsilanyl-ethyl ester | C[Si](CCOC(C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)C)CC=CCP(=O)(O)OC(C)C(=O)O)=O)(C)C | C34H55O11PSi2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 0.054 mmol, 54 μL | C1CCOC1 | C4H8O
solvent | THF | 0.054 mmol, 1 M, 54 μL | C1CCOC1 | C4H8O
product | 2-{4-[(1-Carboxy-ethoxy)-hydroxy-phosphoryl]-but-2-enyl}-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid | 8.0 mg | C(=O)(O)C(C)OP(=O)(O)CC=CCC(C(=O)O)CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C | C24H31O11P
